US08350044B2
To a solution of 4-chloro-5-nitro-2-(pyridin-3-yl)thiazole (500 mg, 2.07 mmol) in 1,4-dioxane (2 mL) was added in one portion solid sodium thiomethoxide (145 mg, 2.07 mmol). The orange-red mixture was stirred at room temperature for 3 hours. The mixture was diluted with ethyl acetate and rinsed with brine, dried over MgSO4 and concentrated in vacuo to give a yellow solid. This solid was purified by silica gel chromatography (ethyl acetate/hexanes) to give 4-(methylthio)-5-nitro-2-(pyridin-3-yl)thiazole (358 mg, 68%): 1H NMR (300 MHz, CDCl3) δ 9.21 (d, J=5.4 Hz, 1H), 8.79 (dd, J=4.8, 1.8 Hz, 1H), 8.24 (dt, J=7.8, 2.1 Hz, 1H), 7.46 (ddd, J=8.1, 4.8, 0.9 Hz, 1H), 2.81 (s, 3H); EIMS m/z 253.

reactant | 4-chloro-5-nitro-2-(pyridin-3-yl)thiazole | 2.07 mmol, 500 mg | ClC=1N=C(SC1[N+](=O)[O-])C=1C=NC=CC1 | C8H4ClN3O2S
reactant | sodium thiomethoxide | 2.07 mmol, 145 mg | C[S-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(methylthio)-5-nitro-2-(pyridin-3-yl)thiazole | 358 mg, 68% | CSC=1N=C(SC1[N+](=O)[O-])C=1C=NC=CC1 | C9H7N3O2S2
